US08198466B2
Preparation of 7-Hydroxy-6-methoxy-2-methylsulfanyl-3-(3,4,5-trimethoxybenzoyl)benzofuran
To a suspension of 2-Bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran (22 mg, 0.046 mmol) in methanol (1 ml) in a screw cap vial was added sodium thiomethoxide (16 mg, 0.23 mmol) and the resulting orange solution was shaken for 20 minutes during which time the reaction became homogeneous. The crude reaction mixture was concentrated onto silica and chromatographed (silica gel, eluent=2:1 hexanes:ethyl acetate) to give the product as a resin (10 mg, 54%) that could be crystallised by standing in hexanes in the freezer overnight; 1H NMR (CDCl3) δ 7.08 (s, 2H), 6.92 (d, J=8.3 Hz, 1H), 6.82 (d, J=8.3 Hz, 1H), 5.73 (br s, 1H), 3.93 (s, 3H), 3.92 (s, 3H), 3.84 (s, 6H), 2.66 (s, 3H).

reactant | 2-Bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran | 0.046 mmol, 22 mg | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | sodium thiomethoxide | 0.23 mmol, 16 mg | C[S-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 7-Hydroxy-6-methoxy-2-methylsulfanyl-3-(3,4,5-trimethoxybenzoyl)benzofuran | OC1=C(C=CC=2C(=C(OC21)SC)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)OC | C20H20O7S
